US05644057
A mixture of a-formyl-2,4,6 trimethylphenylacetonitrile (4.5 g, 24 mmol) and sarcosine ethyl ester hydrochloride (3.7 g, 24 mmol) in 100 mL of benzene was refluxed in a Dean-Stark apparatus for 16 h. The solvent was removed in vacuo to afford N-Methyl-N-[2-(2,4,6-trimethylphenyl)-2-cyanovinyl]-glycine ethyl ester as a pale yellow oil.

reactant | a-formyl-2,4,6 trimethylphenylacetonitrile | 24 mmol, 4.5 g | C(=O)C(C#N)C1=C(C=C(C=C1C)C)C | C12H13NO
reactant | sarcosine ethyl ester hydrochloride | 24 mmol, 3.7 g | Cl.C(C)OC(CNC)=O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | N-Methyl-N-[2-(2,4,6-trimethylphenyl)-2-cyanovinyl]-glycine ethyl ester | C(C)OC(CN(C=C(C#N)C1=C(C=C(C=C1C)C)C)C)=O | C17H22N2O2
